US08258144B2
To a mixture of N-methyl-4-nitroaniline (2 g, 13.1 mmol) in DCM (30 mL) was added Et3N (2.75 mL, 20 mmol) and cyclopropanecarbonyl chloride (1.32 mL, 14.4 mmol) at room temperature, after stirring for 1 h at room temperature, the mixture was diluted with EtOAc, the organics was washed with Sat. NaHCO3, brine, dried and concentrated to give N-methyl-N-(4-nitrophenyl)cyclopropanecarboxamide as crude product (3 g).

reactant | N-methyl-4-nitroaniline | 13.1 mmol, 2 g | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | Et3N | 20 mmol, 2.75 mL | CCN(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 14.4 mmol, 1.32 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-methyl-N-(4-nitrophenyl)cyclopropanecarboxamide | CN(C(=O)C1CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O3
